US05110956
A solution of 5.0 g of (6-methyl-1,3-benzodioxol-5-yl)-carboxaldehyde in 20 ml of tetrahydrofuran was dropwise added at a room temperature to a Grignard reagent prepared from 0.86 g of magnesium ribbon, 10 ml of tetrahydrofuran and 4.4 g of 1-bromopropane. The obtained mixture was stirred at a room temperature for one hour, followed by the addition of a saturated aqueous solution of ammonium chloride The obtained mixture was extracted with ether. The organic layer was washed with an aqueous solution of common salt, dried over magnesium sulfate and distilled to remove the solvent. 5.6 g of (6-methyl-1,3-benzodioxol-5-yl)-butan-1-ol was obtained.

reactant | (6-methyl-1,3-benzodioxol-5-yl)-carboxaldehyde | 5.0 g | CC1=CC2=C(C=C1C=O)OCO2 | C9H8O3
reactant | magnesium ribbon | 0.86 g | [Mg] | Mg
reactant | 1-bromopropane | 4.4 g | BrCCC | C3H7Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (6-methyl-1,3-benzodioxol-5-yl)-butan-1-ol | 5.6 g | CC=1C(=CC2=C(OCO2)C1)C(CCC)O | C12H16O3
